US04405778
A solution of 0.50 g of 3-methylene-7β-phenylacetylamino-cepham-4α-carboxylic acid diphenylmethyl ester in 100 ml of methanol is treated for 6.5 minutes at -70° C. with an oxygen-ozone stream containing 0.175 mmol of ozone/minute. The reaction mixture is mixed with 0.5 ml of dimethyl sulphide and stirred for one hour at -70° C., then for 2 hours at room temperature and evaporated to dryness. The residue, in methylene chloride is chromatographed on 15 g of silica gel. Elution with methylene chloride yields amorphous 7β-phenylacetylaminocepham-3-one-4ξ-carboxylic acid diphenylmethyl ester, thin layer chromatography (silica gel): Rf~0.47 (system: toluene/acetone/methanol/acetic acid, 80:10:5:5); infrared absorption spectrum (in methylene chloride): characteristic bands at 2.95μ, 5.61μ, 5.77μ, 5.85μ, 5.95μ, 6.21μ and 6.87μ; the compound shows a positive reaction with iron-III chloride.

reactant | 3-methylene-7β-phenylacetylamino-cepham-4α-carboxylic acid diphenylmethyl ester | 0.50 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)[C@H]1C(CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=C | C29H26N2O4S
reactant | oxygen ozone | O=O.O=[O+][O-]
reactant | ozone | 0.175 mmol | O=[O+][O-] | O3
reactant | dimethyl sulphide | 0.5 ml | CSC | C2H6S
solvent | methanol | 100 ml | CO | CH4O
product | 7β-phenylacetylaminocepham-3-one-4ξ-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1C(CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=O | C28H24N2O5S
